US07855285B2
Preparation of 6-amino-2-chloro-9-(2-deoxy-β-erythropentofuranosyl)purine (2-chloro-2′-deoxyadenosine) (cladribine)
A solution of 2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-pentylimidazol-1-yl)purine (0.35 g, 0.55 mmol) in methanolic ammonia (14%) was stirred at 80° C. for 13 h. Volatiles were evaporated, and the oily residue was extracted with CH2Cl2 (10 mL) to remove lipophilic by-products. The semi-solid residue was dissolved in acetone (with additions of small amounts of MeOH—if necessary), volatiles were evaporated, and the semi-solid was allowed to crystallize (˜1 h). This material was extracted with CH2Cl2 (10 mL) and dried. The resulting 2-chloro-2′-deoxyadenosine (white powder; 113 mg, 70%) was pure by 1H NMR analysis. Additional amounts of cladribine (˜24 mg, 15%; containing traces of the α-anomer) were recovered from the concentrated extracts by chromatography (EtOAc→EtOAc/MeOH, 10:1) followed by a similar extraction sequence.

reactant | 2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-pentylimidazol-1-yl)purine | 0.55 mmol, 0.35 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C)N1C(=NC=C1)CCCCC | C34H35ClN6O5
solvent | ammonia | N | H3N
product | 6-amino-2-chloro-9-(2-deoxy-β-erythropentofuranosyl)purine | NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1C[C@H](O)[C@H](O1)CO | C10H12ClN5O3
